US08106043B2
tert-Butyl ethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate:
To a stirred solution of tert-butyl ethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate (1.01 g, 2.65 mmol) in tetrahydrofuran (5 mL) was added borane-tetrahydrofuran complex (1 M in tetrahydrofuran; 7.94 mL, 7.94 mmol). The resulting mixture was stirred at room temperature for 2 hours. The mixture was then quenched via the slow dropwise addition (to avoid excessive bubbling) of MeOH (5 mL). The quenched reaction was then diluted with ethyl acetate and washed with water (2×) and saturated sodium carbonate (2×). The organic phase was dried, filtered, and concentrated, giving a red-orange oil (925 mg, 95%). 1H NMR (DMSO-d6) δ 7.59-7.41 (m, 1H), 7.39-7.32 (m, 1H), 7.24-7.13 (m, 1H), 3.69-3.62 (m, 2H), 3.58-3.48 (m, 2H), 3.45-3.35 (m, 2H), 3.28-3.16 (m, 2H), 3.15-3.08 (m, 2H), 1.32, 1.24 (2s, 9H), 1.04 (t, J=6.9 Hz, 3H); ESI-MS (m/z, %): 390 (M+Na, 70), 368 (MH+, 12), 312 (47), 268 (100).

reactant | tert-butyl ethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate | 2.65 mmol, 1.01 g | C(C)N(C(OC(C)(C)C)=O)CC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C17H23N3O5S
reactant | borane tetrahydrofuran | 7.94 mmol, 1 M, 7.94 mL | B.O1CCCC1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl ethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 925 mg, 95% | C(C)N(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C17H25N3O4S
